US04367238
A solution of ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]octanoate (5 g) in hydriodic acid (58%, 20 ml) and acetic acid (40 ml) was refluxed under heating for 24 hours. The reaction mixture was treated in a similar manner to that of Example 31-(7) to give oily 3-n-hexyl-7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one (1.7 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolylthio)phenyl]octanoate | 5 g | C(#N)C(C(=O)OCC)(CCCCCC)C1=C(C(=CC=C1)SC1=C(C=CC=C1)C)OC | C25H31NO3S
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | hydriodic acid | 20 ml | I | HI
product | 3-n-hexyl-7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one | 1.7 g | C(CCCCC)C1C(OC2=C1C=CC=C2SC2=C(C=CC=C2)C)=O | C21H24O2S
